US07067517B2
Methyl-phenyl-carbamic acid 3-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 3-(5-trifluoromethyl-pyridin-2-yloxy)-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to flash chromatography (Quad flash 25, dichlormethane) (89%, oil). HPLC-MS m/z=389.1 (M+1), Rt: 5.08 min.

reactant | 3-(5-trifluoromethyl-pyridin-2-yloxy)-phenol | FC(C=1C=CC(=NC1)OC=1C=C(C=CC1)O)(F)F | C12H8F3NO2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
solvent | dichlormethane | ClCCl | CH2Cl2
product | Methyl-phenyl-carbamic acid 3-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC=1C=C(C=CC1)OC(N(C1=CC=CC=C1)C)=O)(F)F | C20H15F3N2O3
